* C:\users\leonardo\Desktop\FSAE\inverter-simulation\main-attempt\inverter-spice-nmos.asc
V1 N002 N015 400
R3 N003 N002 0.01
R4 N016 N015 10m
L3 N004 N003 1n
L4 N008 N016 1n
R1 N005 N004 10m
R5 N009 N008 10m
L1 N001 N005 1u
L5 0 N009 1u
C1 N001 0 360u
R7 N001 N007 10
R8 N006 N013 5
L7 N007 N010 10u
V2 N006 0 PULSE(0 24 0 0 0 0.0000625 0.000125)
M1 N010 N013 0 N014 NMOS L=5u W=170u Ad=8500p As=8500p Pd=440u Ps=440u NRD=0.1 NRS=0.1
R2 N011 N004 10m
R6 N017 N008 10m
L2 N012 N011 1u
L6 0 N017 1u
C2 N012 0 320u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\leonardo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.002 0 0.001
.lib /home/leonardo/Desktop/UniStorage/CED/labs/lab1/cd4007.lib
.backanno
.end
